US06552067B2
To a solution of 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester (3.37 g, 6.43 mmol) in THF (40 mL) at 0° C. was added tetra-butylammonium fluoride (1M in THF, 9.6 mL, 9.6 mmol). The reaction mixture was stirred at room temperature for 18 h and the volatiles were removed in vacuo. EtOAc was added and the organic solution was washed with saturated aqueous NaHCO3 (2×), water (1×), and brine (1×). The organic solution was dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with EtOAc to yield 2.28 g of 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid methyl ester. 1H NMR (CDCl3) (selected peaks) δ7.91 (d, 2H), 7.32-7.15 (m, 7H), 3.86 (s, 3H), 3.75 (m, 1H), 3.63 (m, 1H), 3.54 (m, 1H), 2.94 (m, 1H), 2.78 (m, 1H), 2.61 (m, 3H); MS 410.1 (M+1).

reactant | 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester | 6.43 mmol, 3.37 g | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C31H45NO4Si
reactant | tetra-butylammonium fluoride | 9.6 mmol, 1M, 9.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid methyl ester | 2.28 g | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC=CC=C1)O)=O | C25H31NO4
